US05674811
Production of 4-[5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-2-nitrophenylthio]-3-oxo-2-(2,4-dichlorophenyl)pentanenitrile (compound No. 148)
2,3-Dichloro-5-trifluoromethylpyridine (1.08 g), 2.05 g of 1-cyano-1-(2,4-dichlorophenyl)-3-(5-hydroxy-2-nitrophenylthio)-2-butanone and 2.07 g of potassium carbonate were refluxed in 50 ml of acetonitrile under heat at 80° C. for 3 hours. The reaction liquid was filtered, and the filtrate was concentrated. A 10% hydrochloric acid aqueous solution was added to the residue, and the mixture was extracted with chloroform, followed by concentrating the extract. The residue was purified by silica gel chromatography to obtain 1.62 g of compound No. 148 which was a pale yellow viscous substance. The yield was 55.0%. The results of analysis of compound No. 148 are shown in Table 1.

reactant | 2,3-Dichloro-5-trifluoromethylpyridine | 1.08 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | 1-cyano-1-(2,4-dichlorophenyl)-3-(5-hydroxy-2-nitrophenylthio)-2-butanone | 2.05 g | C(#N)C(C(C(C)SC1=C(C=CC(=C1)O)[N+](=O)[O-])=O)C1=C(C=C(C=C1)Cl)Cl | C17H12Cl2N2O4S
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-[5-(3-chloro-5-trifluoromethyl-2-pyridyloxy)-2-nitrophenylthio]-3-oxo-2-(2,4-dichlorophenyl)pentanenitrile | 1.62 g, yield was 55.0% | ClC=1C(=NC=C(C1)C(F)(F)F)OC=1C=CC(=C(C1)SC(C(C(C#N)C1=C(C=C(C=C1)Cl)Cl)=O)C)[N+](=O)[O-] | C23H13Cl3F3N3O4S
